US07507740B2
Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-(3,4-dimethoxybenzoyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
Under ice-cooling, to a suspension of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine hydrochloride (150 mg) and potassium carbonate (102 mg) in N,N-dimethylformamide (1.5 mL) was added 3,4-dimethoxybenzoyl chloride (82 mg), and the mixture was stirred under ice-cooling, for 1 hr. The mixture was partitioned between ethyl acetate (50 mL) and water (30 mL). The organic layer was washed with saturated brine (30 mL), dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→ethyl acetate:methanol=80:20), and crystallized from diisopropyl ether to give the title compound (104 mg).

reactant | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine hydrochloride | 150 mg | Cl.ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2
reactant | potassium carbonate | 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxybenzoyl chloride | 82 mg | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-(3,4-dimethoxybenzoyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 104 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2C(C2=CC(=C(C=C2)OC)OC)=O | C28H22ClFN4O4
